US06248765B1
(4-(3-(1H-Imidazol-4-yl)propyloxy)phenyl)propanone
5 mmol of 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol and 6 mmol of 4-hydroxyphenylpropanone are treated as described in Example 76.

reactant | 3-(1-triphenylmethyl-1H-imidazol-4-yl)propanol | 5 mmol | C1(=CC=CC=C1)C(N1C=NC(=C1)CCCO)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H24N2O
reactant | 4-hydroxyphenylpropanone | 6 mmol | OC1=CC=C(C=C1)CC(C)=O | C9H10O2
product | (4-(3-(1H-Imidazol-4-yl)propyloxy)phenyl)propanone | N1C=NC(=C1)CCCOC1=CC=C(C=C1)CC(C)=O | C15H18N2O2
